US04275220
A mixture consisting of 0.554 g of benzyloxy-α-vinyltyrosine methyl ester and 40 ml of 6 N aqueous hydrochloride acid was heated at reflux with rapid stirring for 2 hours. The reaction mixture was cooled, extracted three times with 5 ml of methylene chloride and treated with activated charcoal. Filtration and evaporation of solvent gave 0.355 g of α-vinyltyrosine hydrochloride as an amorphous solid. NMR (D2O) showed: 3.35 (2H,AB, JAB =15, γAB =22), 5.55 (1H,d, J=18), 5.70 (1H,d, J=12), 6.43 (1H, d of d, J=18,12), 7.27 (2H,AB, JAB =9, γAB =22). m/e 207 (P-36).

reactant | benzyloxy-α-vinyltyrosine methyl ester | 0.554 g | COC([C@@](NOCC1=CC=CC=C1)(CC1=CC=C(C=C1)O)C=C)=O | C19H21NO4
reactant | hydrochloride | 6 N, 40 ml | Cl | ClH
product | α-vinyltyrosine hydrochloride | 0.355 g | Cl.C(=C)[C@](N)(CC1=CC=C(C=C1)O)C(=O)O | InChI=1S/C11H13NO3.ClH/c1-2-11(12,10(14)15)7-8-3-5-9(13)6-4-8;/h2-6,13H,1,7,12H2,(H,14,15);1H/t11-;/m0./s1
